US08754242B2
Furfuryl alcohol (4 ml, 46.7 mmol) is added to 2-(2,4,6-trimethylphenyl)cyclopent-4-ene-1,3-dione (2.0 g, 9.3 mmol) and MgI2 (520 mg, 1.86 mmol) and the reaction is stirred for 17 hours. The reaction mixture is adsorbed onto silica gel and purified by column chromatography on silica gel to give (1RS,2SR,6RS,7SR)-1-hydroxymethyl-4-(2,4,6-trimethylphenyl)-10-oxatricyclo-[5.2.1.02,6]dec-8-ene-3,5-dione.

reactant | Furfuryl alcohol | 46.7 mmol, 4 ml | C(C1=CC=CO1)O | C5H6O2
reactant | 2-(2,4,6-trimethylphenyl)cyclopent-4-ene-1,3-dione | 9.3 mmol, 2.0 g | CC1=C(C(=CC(=C1)C)C)C1C(C=CC1=O)=O | C14H14O2
reactant | MgI2 | 1.86 mmol, 520 mg | [Mg+2].[I-].[I-]
product | (1RS,2SR,6RS,7SR)-1-hydroxymethyl-4-(2,4,6-trimethylphenyl)-10-oxatricyclo-[5.2.1.02,6]dec-8-ene-3,5-dione | OCC12C3C(C(C(C3C(C=C1)O2)=O)C2=C(C=C(C=C2C)C)C)=O | C19H20O4
